US06114391
c) Preparation of 2-(5,6-dimethoxy-2-indanylamino)acetamide (CHF 3511)
5,6-Dimethoxy-2-indanylamine (0.024 moles, 4.6 g) and sodium bicarbonate (0.026 moles, 2.2 g) are added to a solution of chloroacetamide (0.024 moles, 2.2 g) in absolute ethanol (100 ml) and refluxed for 10 hours. The mixture is filtered at r.t. and the solution is evaporated to dryness. The resulting oil is chromatographed under medium pressure through silica gel (eluent: methylene chloride/methanol=90/10) Yield: 1.95 g (32.7%)--m.p.=135-138° C.

reactant | 5,6-Dimethoxy-2-indanylamine | 0.024 moles, 4.6 g | COC=1C=C2CC(CC2=CC1OC)N | C11H15NO2
reactant | sodium bicarbonate | 0.026 moles, 2.2 g | C([O-])(O)=O.[Na+]
reactant | chloroacetamide | 0.024 moles, 2.2 g | ClCC(=O)N | C2H4ClNO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(5,6-dimethoxy-2-indanylamino)acetamide | COC=1C=C2CC(CC2=CC1OC)NCC(=O)N | C13H18N2O3
